US08669234B2
Hydrazinecarboxylic acid methyl ester (5.01 g) were dissolved in acetone (28 mL), and acetic acid (0.0636 mL) was added. The reaction mixture was stirred at room temperature for 24 hours. Water (50 mL) was added, and mixture was extracted three times with DCM (50 mL) and evaporated under vacuum, giving N′-Isopropylidene-hydrazine-carboxylic acid methyl ester (6.45 g, 89%).

reactant | Hydrazinecarboxylic acid methyl ester | 5.01 g | COC(=O)NN | C2H6N2O2
reactant | acetic acid | 0.0636 mL | C(C)(=O)O | C2H4O2
reactant | Water | 50 mL | O | H2O
reactant | acetone | 28 mL | CC(=O)C | C3H6O
product | N′-Isopropylidene-hydrazine-carboxylic acid methyl ester | 6.45 g, 89% | COC(=O)NN=C(C)C | C5H10N2O2
